US20010003749A1
To a solution of 25.00 g (0.1093 mol) of 1-(2′-methoxyphenyl)piperazine hydrochloride in 42 mL of water was added 14.5 mL (0.109 mol) of concentrated (29.4%) NH4OH (aq) (pH=9). The mixture was extracted twice with 250 mL of 1:1 (v/v) of THF:toluene. The organic extracts were combined, dried over MgSO4, gravity filtered and concentrated to afford 20.17 g (96.00%) of 1-(2′-methoxyphenyl)piperazine as a pale green oil: 1H NMR (d6-DMSO): d 6.90-6.97 (m, 2H, phenyl CH), 6.83-6.90 (m, 3H, phenyl CH), 3.77 (s, 3H, OCH3), 2.77-2.91 (m, 8H, piperazine CH2) , 2.49-2.53 (m, 1H, NH). A solution of 9.55 g (0.0370 mol) of 4-cyclohexyl-3-methyl-4-oxo-3-phenylbutyraldehyde in 10 mL of iPrOAc was added to 6.77 g (0.0352 mol) of neat 1-(2′-methoxyphenyl)piperazine. The mixture turned turbid, and then turned to a solid mass when 10 mL of iPrOAc was added. The solid was slurried with 45 mL of iPrOAc. After 1.5 h, reaction was complete. The solid was vacuum filtered and washed with 10 mL of iPrOAc and air dried to afford 9.81 g (64.4%) of pure enamine as an off-white powder. The filtrate was concentrated to afford 6.40 9 of crude enamine;

reactant | 1-(2′-methoxyphenyl)piperazine hydrochloride | 0.1093 mol, 25.00 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
solvent | water | 42 mL | O | H2O
product | 1-(2′-methoxyphenyl)piperazine | 20.17 g, 96.00% | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
